US07001899B2
Preparation of {6-azidomethyl-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic methyl ester (28):
To a solution of {6-[(methane-sulfonyl)methyl]-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid methyl ester, 23, (1.62 g, 3.52 mmol) in DMF(10 mL) is added sodium azide at room temperature. The reaction is then heated to 50° C. and stirred 18 hours after which time the solution is diluted with water. The resulting solution is extracted three times with CH2Cl2 (70 mL), the organic layers combined and washed with saturated NaHCO3, saturated NaCl, and dried (Na2SO4). The solvent is removed in vacuo and the resulting residue is purified by HPLC to afford 0.46 g (59% yield) of the desired product. 1H NMR (CDCl3) δ 9.49–9.46 (m, 1H), 9.21–9.19 (d, J=6.9 Hz, 1H), 8.48–8.46 (m, 1H), 7.81–7.74 (m, 2H), 7.69–7.60 (m, 2H), 5.83–5.81 (m, 1H), 5.51–5.43 (m, 1H), 4.76–4.69 d, d, J=17.4, 2.4 Hz, 1H), 4.46–4.40 (d, J=17.4 Hz, 1H), 4.20–4.14 (d, J=17.7 Hz, 1H), 3.84–3.76 (d, J=13.2 Hz, 1H), 3.74–3.70 (m, 3H), 3.68–3.64 (d, J=13.2 Hz, 1H), 3.44–3.39 d, J=17.7 Hz, 1H), 2.99–2.92 (d, d, J=18.3, 3.9 Hz, 1H), 2.50–2.40 (d, d, J=15.6, 14.7 Hz, 1H); MS 409 (M+H)+.

reactant | {6-[(methane-sulfonyl)methyl]-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid methyl ester | COC(CN1C(C(CC=C(C1)CS(=O)(=O)C)NC(=O)C1=NC=CC2=CC=CC=C12)=O)=O | C21H23N3O6S
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | {6-azidomethyl-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic methyl ester | 0.46 g, 59% yield | COC(CN1C(C(CC=C(C1)CN=[N+]=[N-])NC(=O)C1=NC=CC2=CC=CC=C12)=O)=O | C20H20N6O4
